US08802864B2
5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[2-fluoro-4-(6-fluoro-2-naphthalenyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
Into a 5 mL microwaveable vial was placed 4-(4-bromo-2-fluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (0.244 mmol), bis(pinacolato)diboron (0.244 mmol), potassium acetate (0.977 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (0.024 mmol), and 1,4-dioxane (2 mL). The vial was capped and the contents were purged with nitrogen. The solution stirred at 100° C. for 16 h. LCMS analysis displayed boronic ester intermediate present (boronic ester cleavage to acid also observed on LCMS) as well as a small amount of bromide starting material. The reaction was cooled to room temperature. Added to the vial was 2-bromo-6-fluoronaphthalene (0.244 mmol) and 2M aq potassium carbonate (1 mL). The vial was capped, purged with nitrogen, and stirred at 100° C. for 1 h. The solution was cooled to room temperature, whereby the dioxane layer separated from the aqueous layer. The dioxane layer was removed via pipette and was passed through a plug of celite and sodium sulfate. The plug was washed with dioxane (2 mL). All dioxane filtrates were combined and concentrated in vacuo. Reverse phase HPLC (30-80% acetonitrile/water+0.1% NH4OH) was utilized in purifying the title compound (21 mg, 17%). MS(ES)+ m/e 475.1 [M+H]+.

reactant | 4-(4-bromo-2-fluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.244 mmol | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)F | C17H18BrFN4O2
reactant | bis(pinacolato)diboron | 0.244 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.977 mmol | C(C)(=O)[O-].[K+]
reactant | 2-bromo-6-fluoronaphthalene | 0.244 mmol | BrC1=CC2=CC=C(C=C2C=C1)F | C10H6BrF
reactant | potassium carbonate | 2M, 1 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 0.024 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[2-fluoro-4-(6-fluoro-2-naphthalenyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=C(C=C(C=C1)C1=CC2=CC=C(C=C2C=C1)F)F | C27H24F2N4O2
